US05107013
2-Acetyl-6-methoxynaphthalene
48 Grams of naphthalene and 16.7 g of anhydrous aluminum chloride are added to the solution of 2-acetyl-5-bromo-6-methoxynaphthalene obtained as in example 1a), while keeping the temperature at -10° C. The reaction mixture is kept under stirring for 2 hours at 0° C. and for 20 hours at room temperature and then it is worked as in example 1 obtaining 38.8 g of product with a yield equal to 79.2% calculated on the basis of the starting material 1-bromo-2-methoxynaphthalene.

reactant | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | aluminum chloride | 16.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-acetyl-5-bromo-6-methoxynaphthalene | C(C)(=O)C1=CC2=CC=C(C(=C2C=C1)Br)OC | C13H11BrO2
reactant | 1-bromo-2-methoxynaphthalene | BrC1=C(C=CC2=CC=CC=C12)OC | C11H9BrO
product | 2-Acetyl-6-methoxynaphthalene | C(C)(=O)C1=CC2=CC=C(C=C2C=C1)OC | C13H12O2
